### PR TITLE
[Merged by Bors] - feat(CategoryTheory): the opposite of a property of objects

### PR DESCRIPTION
**Pull request by joelriou**
This PR adds the prerequisites for the refactor PR #30269, mostly the addition of `ObjectProperty.op` and constructors for `ObjectProperty` given by families of objects.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/ObjectProperty/Opposite.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
...
+
+instance (P : ObjectProperty C) [P.IsClosedUnderIsomorphisms] :
+    P.op.IsClosedUnderIsomorphisms where
+  of_iso e hX := P.prop_of_iso e.symm.unop hX
+
+instance (P : ObjectProperty Cᵒᵖ) [P.IsClosedUnderIsomorphisms] :
+    P.unop.IsClosedUnderIsomorphisms where
+  of_iso e hX := P.prop_of_iso e.symm.op hX
+
+lemma isoClosure_op (P : ObjectProperty C) :
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/ObjectProperty/Opposite.lean]:
```suggestion
lemma op_isoClosure (P : ObjectProperty C) :
```

File: Mathlib/CategoryTheory/ObjectProperty/Opposite.lean [hunk 2]
```diff
@@ -0,0 +1,106 @@
...
+    P.isoClosure.op = P.op.isoClosure := by
+  ext ⟨X⟩
+  exact ⟨fun ⟨Y, h, ⟨e⟩⟩ ↦ ⟨op Y, h, ⟨e.op.symm⟩⟩,
+    fun ⟨Y, h, ⟨e⟩⟩ ↦ ⟨Y.unop, h, ⟨e.unop.symm⟩⟩⟩
+
+lemma isoClosure_unop (P : ObjectProperty Cᵒᵖ) :
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/ObjectProperty/Opposite.lean]:
```suggestion
lemma unop_isoClosure (P : ObjectProperty Cᵒᵖ) :
```

File: Mathlib/CategoryTheory/ObjectProperty/Opposite.lean [hunk 3]
```diff
@@ -0,0 +1,106 @@
...
+@[simp high]
+lemma op_singleton (X : C) :
+    (singleton X).op = singleton (op X) := by
+  simp
+
+@[simp high]
+lemma unop_singleton (X : Cᵒᵖ) :
+    (singleton X).unop = singleton X.unop := by
+  simp
+
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/ObjectProperty/Opposite.lean:119]: Could you please add `op_inf`,  `unop_inf` and `op_monotone` and `unop_monotone`?

File: Mathlib/CategoryTheory/ObjectProperty/Basic.lean [hunk 4]
```diff
@@ -57,6 +57,18 @@ lemma prop_map_obj (P : ObjectProperty C) (F : C ⥤ D) {X : C} (hX : P X) :
     P.map F (F.obj X) :=
   ⟨X, hX, ⟨Iso.refl _⟩⟩
 
+/-- The strict image of a property of objects by a functor. -/
+inductive strictMap (P : ObjectProperty C) (F : C ⥤ D) : ObjectProperty D
+  | mk (X : C) (hX : P X) : strictMap P F (F.obj X)
+
+lemma prop_strictMap_iff (P : ObjectProperty C) (F : C ⥤ D) (Y : D) :
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/ObjectProperty/Basic.lean]: I would expect this to be called `strictMap_iff`? Is there a convention to add a `prop_`?

File: Mathlib/CategoryTheory/ObjectProperty/Opposite.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/ObjectProperty/Opposite.lean:119]: I have added the `monotone` lemmas, but for `_inf`, I think it should go in a separate PR (and probably a separate file, because I think `Opposite.lean` should remain very basic with minimal imports: the complete lattice structure is not known at this stage).

**Review by chrisflav — APPROVED** [review]
This looks good to me, is it really still awaiting author?

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Review by TwoFX — APPROVED** [review]
bors r+
